US04547514
3-(3,4-Dichlorophenoxy)-1-pyrrolidinecarbothioyl Chloride
3-(3,5-Dichlorophenoxy)pyrrolidine hydrochloride in a solvent mixture with excess tri-ethylamine is reacted with thiophosgene to give the title compound. The triethylamine hydrochloride by-product is removed by filtration and the product isolated by evaporating off excess solvent and triethylamine.

reactant | 3-(3,5-Dichlorophenoxy)pyrrolidine hydrochloride | Cl.ClC=1C=C(OC2CNCC2)C=C(C1)Cl
reactant | thiophosgene | C(=S)(Cl)Cl | CCl2S
solvent | tri-ethylamine | C(C)N(CC)CC | C6H15N
product | 3-(3,4-Dichlorophenoxy)-1-pyrrolidinecarbothioyl Chloride | ClC=1C=C(OC2CN(CC2)C(=S)Cl)C=CC1Cl | C11H10Cl3NOS
